US04866070
To a RB flask equipped with magnetic stirring bar, reflux condenser, N2 inlet line with bubbler was added ethyl acenaphtho[1,2-b]quinoline-10-carboxylate (H. G. Pars Pharmaceutical Laboratories, Inc., 6.75 g, 23 mmol and dry THF (400 mL). The mixture was stirred at reflux for 3 h and then poured into H2O (1 L). The reaction mixture was acidified with 1N HCl and the resulting white solid was filtered, washed with additional H2O (500 mL) then dissolved in CH2Cl2 (500 mL), dried (Na2SO4), filtered, passed through a small plug of SiO2 using CH2Cl2 as the eluting solvent. The appropriate fractions were combined and the volume reduced to 100 mL and diluted to 400 mL with hexane. The resulting material was filtered, washed with hexane (100 mL) and placed in a vacuum oven overnight. A total of 5.52 g (81.6% yield) of acenaphtho[1,2-b]quinoline-10-methanol, mp 215°-218° was obtained which analyzed correctly (C,H,N) for the assigned structure.

reactant | ethyl acenaphtho[1,2-b]quinoline-10-carboxylate | C1=C2C3=C(C=CC=C3C=C1)C1=NC=3C=CC(=CC3C=C12)C(=O)OCC | C22H15NO2
reactant | THF | 400 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | H2O | 1 L | O | H2O
product | acenaphtho[1,2-b]quinoline-10-methanol | 5.52 g, 81.6% yield | C1=C2C3=C(C=CC=C3C=C1)C1=NC=3C=CC(=CC3C=C12)CO | C20H13NO
